US04137264
Preparation of Vinylbenzyltrimethylammonium Chloride
477 Grams (3.05 mole) of 98% vinylbenzyl chloride is dissolved in 2070 ml. of acetone:diethylketone (1:1 vol). While maintaining a batch temperature of 19°-24° C., 200 grams of trimethylamine is added to this solution over a period of 6 hours by bubbling the gaseous amine into the stirred, cooled solution. After stirring the resulting batch at ambient temperature (26° C.) for 1 hour, 1300 ml. of solvent is removed under vacuum. (This solvent mixture is saved and reused in subsequent preparations). The resulting hydroscopic solid is dried in the reaction flask at reduced pressure and ambient temperature. 634 Grams (90% yield) of resulting solid product is then carefully transferred to a tightly sealed bottle for storage to prevent water pickup.

reactant | vinylbenzyl chloride | 3.05 mole | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | acetone diethylketone | CC(=O)C.C(C)C(=O)CC
reactant | trimethylamine | 200 grams | CN(C)C | C3H9N
solvent | water | O | H2O
product | Vinylbenzyltrimethylammonium Chloride | 90% yield | [Cl-].C(=C)C[N+](C)(C)CC1=CC=CC=C1 | InChI=1S/C12H18N.ClH/c1-4-10-13(2,3)11-12-8-6-5-7-9-12;/h4-9H,1,10-11H2,2-3H3;1H/q+1;/p-1
